US04401673
Using the procedure of Step A of Example 7, 1.9 g of (1R, trans) 2,2-dimethyl-3-(4',4'-dibromo-buta-1',3'-dienyl)-cyclopropane-1-carboxylic acid chloride and 6.11 g of (S)α-cyano-3-phenoxy-benzyl alcohol were stirred for 17 hours at 20° C. and the mixture was poured into 200 ml of water with stirring. The decanted aqueous phase was extracted with benzene and the organic phase was washed with 0.1 N hydrochloric acid and then with water, was dried and evaporated to dryness under reduced pressure to obtain 15.4 g of raw product. The latter was chromatographed twice over silica gel and was eluted first with a 9-1 hexane-ethyl acetate mixture and then with an 8-2 hexane-isopropyl ether mixture to obtain 4.4 g of product which was crystallized from a 1-1 hexane-isopropyl ether mixture to obtain 2.2 g of (S)α-cyano-3-phenoxy-benzyl (1R,trans) 2,2-dimethyl-3-(4',4'-dibromo-buta-1',3'-dienyl)-cyclopropane-1-carboxylate melting at 110° C. and having a specific rotation of [α]D20 =+116°±1° (c=1% in benzene).

reactant | (S)α-cyano-3-phenoxy-benzyl alcohol | 6.11 g | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
solvent | water | 200 ml | O | H2O
product | hexane isopropyl ether | CCCCCC.C(C)(C)OC(C)C | InChI=1S/C6H14O.C6H14/c1-5(2)7-6(3)4;1-3-5-6-4-2/h5-6H,1-4H3;3-6H2,1-2H3
